US08378104B2
Step G: 2-(methoxymethyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole
A mixture of 7-iodo-2-(methoxymethyl)-1,3-benzothiazole (100 mg, 0.33 mmol), bis(pinacolato)diboron (416 mg, 1.64 mmol), potassium acetate (225 mg, 2.29 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (13 mg, 0.016 mmol) in 1,4-dioxane (8 mL) was heated to 100° C. for 8 h. The mixture was diluted with EtOAc and washed with water and brine. The organic fraction was dried over sodium sulfate and purified by ISCO chromatography (0 to 15% EtOAc:heptane) to afford 95 mg (95%) of the title compound as white solid. MS (ESI): 306.52 [M+H]+; HPLC tR=1.46 min (HPLC: Anayltical—2 min).

reactant | 7-iodo-2-(methoxymethyl)-1,3-benzothiazole | 0.33 mmol, 100 mg | IC1=CC=CC=2N=C(SC21)COC | C9H8INOS
reactant | bis(pinacolato)diboron | 1.64 mmol, 416 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.29 mmol, 225 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(methoxymethyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazole | 95 mg, 95% | COCC=1SC2=C(N1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C15H20BNO3S
